US04665057
5,7-dihydroxyoctanoic acid delta-lactone was prepared in several steps from cyclopentanone and 2-benzyloxy-1-chloropropane. Thus, alkylation of cyclopentanone was effected by treatment with sodium hydride in tetrahydrofuran (THF) solution to generate the alpha-anion, followed by the dropwise addition of a THF solution of 2-benzyloxy-1-chloropropane. Reaction workup yielded 2-(2-benzyloxy-1-propyl) cyclopentanone. This ketone was treated with peroxy trifluoroacetic acid under Baeyer-Villiger conditions to give the 7-benzyl ether of 5,7-dihydroxyoctanoic acid gamma-lactone. The benzyl group was removed by catalytic hydrogenation, yielding 5,7-dihydroxyoctanoic acid delta-lactone.

reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | 2-benzyloxy-1-chloropropane | C(C1=CC=CC=C1)OC(CCl)C | C10H13ClO
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-benzyloxy-1-propyl) cyclopentanone | C(C1=CC=CC=C1)OC(CC1C(CCC1)=O)C | C15H20O2
